US08426420B2
i) piperazine-1,4-dicarboxylic acid benzyl ester cyclobutyl ester
To a solution of 2.6 g triphosgene and 1.7 ml cyclobutanol in 40 ml dichloromethane were added 6.2 ml triethylamine dropwise at 0° C. After 30 minutes 4.4 ml benzyl 1-piperazinecarboxylate and 3.2 ml triethylamine were added at 0° C. The reaction mixture was allowed to warm to RT for 16 h. Excess triphosgene was destroyed by adding a solution of 2 g NaOH in 200 ml water and stirring for 2 h. The layers were separated, the organic layer dried over MgSO4 and concentrated. The crude product thus obtained was purified by chromatography on silica using heptane/ethyl acetate 4/1 to 2/1 as eluent.

reactant | triphosgene | 2.6 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | cyclobutanol | 1.7 ml | C1(CCC1)O | C4H8O
reactant | triethylamine | 6.2 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl 1-piperazinecarboxylate | 4.4 ml | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | piperazine-1,4-dicarboxylic acid benzyl ester cyclobutyl ester | C1(CCC1)OC(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C17H22N2O4
